US07919468B2
N-Boc-Tyr(Bn)-Gly-Trp-NHCH2Ph:
compound PSV11R. Same procedure as above with Trp-NHCH2Ph (82.43 mg, 0.281 mmol), N-Boc-Tyr(Bn)-Gly-OH (109.26 mg, 0.255 mmol), EDC (53.87 mg, 0.281 mmol) and HOBt (37.97 mg, 0.281 mmol) in CH2Cl2/DMF (2 mL/0.8 mL). The crude residue was triturated with CH2Cl2/pentane to afford a white solid (113.76, 63%). mp 183° C. 1H NMR (300 MHz, CDCl3) δ 1.38 (s, 9H, (CH3)3), 2.81 (m, 2H, CH2 Tyr), 3.26 (m, 2H), 3.72 (m, 2H, CH2 Gly), 4.30 (m, 3H, CHα and CH2Bn), 4.80 (m, 1H, CHα), 5.0 (broad s, 3H, NHBoc and CH2O), 6.72 (m, 1H, NH Gly), 6.90-7.40 (m, 20H, aromatic H and NH), 7.63 (d, 1H, J=7 Hz), 8.35 (s, 1H, NH indole). 13C NMR (75 MHz, CDCl3) δ 28.3 (CH2 Trp and (CH3)3), 37.5 (CH2 Tyr), 43.1, 43.5 (CH2 (Bn), CH2 Gly), 54.0, 55.8 (CHα Tyr, Trp), 70.0 (CH2 (Bn)), 80.4 (C(CH3)3), 110.2, 111.3, 114.9, 118.7, 119.5, 122.0, 123.4, 127.2, 127.4, 127.5, 127.7, 128.0, 128.5, 128.6, 128.7, 130.3, 136.1, 137.0, 137.9 (20 aromatic C), 155.7, 157.7 (Car-O, CO carbamate), 168.9, 171.4, 172.5 (3 CO amide). Anal. Calcd. for C41H45N5O6, 1H2O: C, 68.22; H, 6.56; N, 9.71. Found: C, 68.50; H, 6.48; N, 9.98.

reactant | Trp-NHCH2Ph | 0.281 mmol, 82.43 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCC1=CC=CC=C1 | C18H19N3O
reactant | N-Boc-Tyr(Bn)-Gly-OH | 0.255 mmol, 109.26 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C23H28N2O6
reactant | EDC | 0.281 mmol, 53.87 mg
reactant | HOBt | 0.281 mmol, 37.97 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 DMF | 2 mL | C(Cl)Cl.CN(C)C=O
product | N-Boc-Tyr(Bn)-Gly-Trp-NHCH2Ph | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCC1=CC=CC=C1)C(=O)OC(C)(C)C | C41H45N5O6
